US05057614
3 g of 1-(3-bromopropyl)indole were treated with a 33% solution of methylamine in ethanol. The resulting solution was stirred for 6 hours. The solvent was evaporated and the residue was dissolved in 50 ml of dichloromethane and washed with a saturated sodium bicarbonate solution. The organic phase was dried and evaporated to give 2.30 g of 1-(3-methylaminopropyl)indole.

reactant | 1-(3-bromopropyl)indole | 3 g | BrCCCN1C=CC2=CC=CC=C12 | C11H12BrN
reactant | methylamine | CN | CH5N
solvent | ethanol | C(C)O | C2H6O
product | 1-(3-methylaminopropyl)indole | 2.30 g | CNCCCN1C=CC2=CC=CC=C12 | C12H16N2
